US05661155
A solution of diethyl N-(4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-7-yl)sulfonamido)benzoyl)-L-glutamate (0.16 g, 0.3 mmoles) in 0.1N NaOH (10 ml) was stirred at room temperature under a nitrogen atmosphere for 48 hrs, after which time the solution was acidified (pH 3.5) with acetic acid. The precipitate was collected, washed with water and dried to give N-(4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-7-yl)sulfonamido)benzoyl)-L-glutamic acid as an off-white solid. (0.12 g, 86%) 1H NMR(DMSO-d6, 200 MHz) δ: 1.72-2.08(m, 2H, glu-CH2); 2.26(t, J=Hz, 2H, glu-CH2); 2.43(s, 3H, CH3); 4.18-4.35(m, 1H, glu-CH); 7.07(d, J=8.4 Hz, 2H, Ar); 7.63(d, J=8.3 Hz, 2H, Ar); 7.82(t, J=7.3 Hz, 1H, Ar); 7.84(d, J=8.9 Hz, 1H, Ar); 8.32(m, 2H, glu-NH+Ar); 9.07(d, J=9.3 Hz, 1H, Ar); 10.16(d, J=8.8 Hz, 1H, Ar); 12.71(br s, 1H, NH). Anal. Calculated for C25H22N4O8S.7/4H2O: C, 52.67; H, 4.51; N, 9.83. Found: C, 52.52; H, 4.36; N, 9.70.

reactant | diethyl N-(4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-7-yl)sulfonamido)benzoyl)-L-glutamate | 0.3 mmoles, 0.16 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=CC=C3S(=O)(=O)NC3=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C3 | C29H30N4O8S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | NaOH | 0.1N, 10 ml | [OH-].[Na+]
product | N-(4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-7-yl)sulfonamido)benzoyl)-L-glutamic acid | CC1=NC=2C=CC3=C(C2C(N1)=O)C=CC=C3S(=O)(=O)NC3=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C3 | C25H22N4O8S
